* BFQ166 SPICE MODEL
* PHILIPS SEMICONDUCTORS
* Date : September 1995
*
* PACKAGE : SOT223A DIE MODEL : BFQ168
* 1: COLLECTOR; 2: BASE; 3: EMITTER;
.SUBCKT BFQ166 1 2 3
Q1 6 5 7 7 BFQ168
* SOT223A parasitic model
               Lb  4 5 1.5n 
               Le  7 8 .5n
               L1  2 4 .025n
               L2  1 6 1.19n
               L3  3 8 .6n
              Ccb  4 6 16f
              Cbe  4 8 182f
*
* PHILIPS SEMICONDUCTORS                                     Version:   1.0
* Filename:   BFQ168.PRM                                     Date: Feb 1992
*
.MODEL  BFQ168   NPN
+              IS = 1.56960E-015
+              BF = 5.67649E+001
+              NF = 9.80718E-001
+             VAF = 3.09555E+001
+             IKF = 9.93475E+000
+             ISE = 2.27232E-013
+              NE = 1.85087E+000
+              BR = 8.91658E+001
+              NR = 9.84794E-001
+             VAR = 4.80825E+000
+             IKR = 6.99865E+000
+             ISC = 7.54672E-015
+              NC = 1.12261E+000
+              RB = 1.00000E+001
+             IRB = 1.00000E-006
+             RBM = 1.00000E+001
+              RE = 2.65455E-001
+              RC = 2.90000E-001
+              EG = 1.11000E+000
+             XTI = 3.00000E+000
+             CJE = 2.13600E-011
+             VJE = 8.21900E-001
+             MJE = 4.06200E-001
+              TF = 1.39273E-011
+             XTF = 6.00000E+000
+             VTF = 8.00153E+000
+             ITF = 3.45649E+000
+             CJC = 8.52200E-012
+             VJC = 6.67600E-001
+             MJC = 4.00800E-001
.ENDS

